US08664203B2
37.1. 4-(2-Amino-3-hydroxy-propionyl)-piperazine-1-carboxylic acid butyl ester hydrochloride
To a solution of 4-((S)-2-tert-butoxycarbonylamino-3-hydroxy-propionyl)-piperazine-1-carboxylic acid butyl ester (1.79 g, as described in WO2008044217) in CH2Cl2 (22 mL) was added HCl (4M in dioxane, 8.3 mL) and the reaction mixture was stirred for 2 h at RT. The suspension was diluted with Et2O (1000 mL) and the white cake was filtered, washed with Et2O and dried at HV overnight. The crude (1.19 g) was used without purification.

reactant | 4-((S)-2-tert-butoxycarbonylamino-3-hydroxy-propionyl)-piperazine-1-carboxylic acid butyl ester | 1.79 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CO)NC(=O)OC(C)(C)C)=O | C17H31N3O6
reactant | HCl | 4M, 8.3 mL | Cl | ClH
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 1000 mL | CCOCC | C4H10O
product | 4-(2-Amino-3-hydroxy-propionyl)-piperazine-1-carboxylic acid butyl ester hydrochloride | Cl.C(CCC)OC(=O)N1CCN(CC1)C(C(CO)N)=O | InChI=1S/C12H23N3O4.ClH/c1-2-3-8-19-12(18)15-6-4-14(5-7-15)11(17)10(13)9-16;/h10,16H,2-9,13H2,1H3;1H
